* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {100u,200u,300u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 0 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=200u slew_en=0
.param ic = {min(max(iload,100u),300u)}
.param u  = {ln(ic)}
.param VREG121 = 1.049992e+00    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((2.775568e-02)*u*u + (-4.179687e-01)*u + (-7.142423e+00)),1.450562e-01),3.932632e-01)}
.param L_a = {min(max(exp((3.311289e-02)*u*u + (-3.074334e-01)*u + (-1.476024e+01)),4.138561e-05),1.100357e-04)}
.param R_pl = {min(max(exp((4.108195e-02)*u*u + (-1.275195e-01)*u + (1.969943e+00)),2.996325e+02),7.608420e+02)}
.param R_b = {min(max(exp((3.426526e-02)*u*u + (-2.930690e-01)*u + (2.379537e-01)),1.296607e+02),3.468669e+02)}
.param L_b = {min(max(exp((5.785403e-02)*u*u + (1.369922e-01)*u + (-1.382466e+01)),1.460578e-05),3.816302e-05)}
.param G0 = {min(max((6.792747e-04)*u*u + (1.354001e-02)*u + (6.833255e-02),1.237868e-03),3.205811e-03)}
.param G1 = {min(max((-1.654862e-04)*u*u + (-3.627116e-03)*u + (-1.999710e-02),-1.468113e-03),-6.242035e-04)}
.param w1 = {min(max(exp((3.592998e-02)*u*u + (5.982696e-01)*u + (1.885859e+01)),1.279385e+07),1.327325e+07)}
.param G2 = {min(max((-2.638903e-04)*u*u + (-5.193330e-03)*u + (-2.585577e-02),-1.096323e-03),-4.059267e-04)}
.param w2 = {min(max(exp((-1.080524e-02)*u*u + (-2.055300e-01)*u + (7.206380e+00)),3.489836e+03),3.596644e+03)}
.param G3 = {min(max((-2.313515e-04)*u*u + (-4.356520e-03)*u + (-2.068620e-02),-5.721723e-04),-1.848862e-04)}
.param w3 = {min(max(exp((2.324227e-02)*u*u + (4.481836e-01)*u + (1.769933e+01)),5.598809e+06),5.945312e+06)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((-5.024840e-15)*u*u + (-9.132097e-14)*u + (1.749783e+01)),3.954065e+07),3.993704e+07)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-1.966409e-01)*u*u + (-3.153128e+00)*u + (-2.227458e+01)),4.921533e-05),6.564343e-05)}
.param snw = {min(max(exp((2.551120e-01)*u*u + (4.218334e+00)*u + (1.351648e+01)),1.983939e-02),2.498245e-02)}
.param sn1 = {min(max(exp((5.891039e+01)*u*u + (1.007377e+03)*u + (4.271726e+03)),7.730395e-16),1.042616e-04)}
.param sn2 = {min(max(exp((-4.113443e-04)*u*u + (-7.196494e-03)*u + (4.847708e+00)),1.308471e+02),1.321779e+02)}
.param sn3 = {min(max(exp((2.344854e-03)*u*u + (4.091825e-02)*u + (2.192930e+00)),7.459856e+00),7.540526e+00)}
.param sn4 = {min(max(exp((-5.033898e-03)*u*u + (-8.775704e-02)*u + (4.900835e-01)),2.376731e+00),2.404502e+00)}
.param vreg = {min(max((-2.187484e-05)*u*u + (-4.201515e-04)*u + (1.048000e+00),1.049969e+00),1.050014e+00)}
.param COUT=5.466989e-13 ESR=2.533715e+00    $ auto-extracted physical output cap / ESR
.param CFTP=1.744391e-13    $ gated vin->vout feedthrough cap
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vrgn nA I = {(slew_en > 0.5) ? pwl(V(vrgn,nA)-(vreg-VREG121),-8.067572e-06,7.500000e-07,1.465927e-05,9.183228e-05,3.738611e-05,1.829146e-04,6.011295e-05,2.739968e-04,8.283979e-05,3.650791e-04,1.055666e-04,4.561614e-04,1.245554e-04,5.322627e-04) : V(vrgn,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
* ---- gated vin->vout feedthrough cap (pass-device/package coupling) ----
Cft vin vout {CFTP}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 0 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
* series voltage-noise bank (hybrid): vreg -> vrgn feeds branch A
Rvw  nvw 0 1.000000e+06
Evw  vreg x1 nvw 0 {snw}     $ white voltage section
Rv1  nv1 0 1.000000e+06
Cv1  nv1 0 7.240878e-10        $ corner 219.8 Hz
Ev1  x1 x2 nv1 0 {sn1}
Rv2  nv2 0 1.000000e+06
Cv2  nv2 0 3.241957e-10        $ corner 490.9 Hz
Ev2  x2 x3 nv2 0 {sn2}
Rv3  nv3 0 1.000000e+06
Cv3  nv3 0 4.733828e-12        $ corner 3.362e+04 Hz
Ev3  x3 x4 nv3 0 {sn3}
Rv4  nv4 0 1.000000e+06
Cv4  nv4 0 1.194299e-13        $ corner 1.333e+06 Hz
Ev4  x4 vrgn nv4 0 {sn4}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

